US05021412
0.79 g of lithium aluminum hydride was suspended in 50 ml of diethyl ether, and a solution of 4.6 g of 4-pentafluoroethylbenzonitrile in 30 ml of diethyl ether was added dropwise. After the addition, the mixture was stirred at room temperature for 30 minutes, and 5 ml of water was added dropwise over 30 minutes. The insoluble matter was removed by filtration. The ether layer was dried, and then diethyl ether was evaporated under reduced pressure to give 4.7 g of the desired 4-pentafluoroethylbenzylamine as an oil.

reactant | lithium aluminum hydride | 0.79 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-pentafluoroethylbenzonitrile | 4.6 g | FC(C(F)(F)F)(C1=CC=C(C#N)C=C1)F | C9H4F5N
reactant | water | 5 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4-pentafluoroethylbenzylamine | 4.7 g | FC(C(F)(F)F)(C1=CC=C(CN)C=C1)F | C9H8F5N
